US07576215B2
3,4-DIPHENYL-8-(TRIFLUOROMETHYL)QUINOLINE
Preparation of 3-Bromo-8-(trifluoromethyl)quinolin-4-ol: 8-Trifluoromethyl-quinolin-4-ol (9.12 g, 42.8 mmol) is dissolved in acetic acid (300 mL). Bromine (2.20 mL 42.8 mmol) is dissolved in acetic acid (30 mL) and then added drop wise to the reaction over 20 min. After 0.5 h, the solution is poured into 500 mL of 2N NaOH and stirred. The white precipitate is filtered and dried in vacuo yielding the title compound as a white solid (10.3 g, 83%). mp 297-299° C.; MS (ESI) m/z 292; MS (ESI) m/z 290; HRMS: calcd for C10H5BrNF3O+H, 291.95848; found (ESI_FT, [M+H]1+), 291.95847.

reactant | 3-Bromo-8-(trifluoromethyl)quinolin-4-ol | BrC=1C=NC2=C(C=CC=C2C1O)C(F)(F)F | C10H5BrF3NO
reactant | 8-Trifluoromethyl-quinolin-4-ol | 42.8 mmol, 9.12 g | FC(C=1C=CC=C2C(=CC=NC12)O)(F)F | C10H6F3NO
reactant | Bromine | 42.8 mmol, 2.20 mL | BrBr | Br2
reactant | NaOH | 2N, 500 mL | [OH-].[Na+]
solvent | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 3,4-DIPHENYL-8-(TRIFLUOROMETHYL)QUINOLINE | 10.3 g, 83% | C1(=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C1=CC=CC=C1)C(F)(F)F | C22H14F3N
